US07173025B1
Diethyl azodicarboxylate (0.157 ml) was added over 15 minutes to a stirred mixture of 1-(4-pyridyl)piperidin-4-ol (0.178 g), 4-(4-chlorophenylsulphonyl)phenol (J. Amer. Chem. Soc., 1956, 78, 3400; 0.269 g), triphenylphosphine (0.265 g) and THF (10 ml) which had been cooled to 4° C. The resultant mixture was stirred for 42 hours at ambient temperature. The solvent was evaporated and the the residue was purified by column chromatography using a 9:1 mixture of methylene chloride and methanol as eluent. The residue was triturated under diethyl ether to give 4-[4-chlorophenylsulphonyl)phenoxy]-1-(4-(pyridyl)piperidine (0.134 g), m.p. 151-152° C.;

reactant | Diethyl azodicarboxylate | 0.157 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-(4-pyridyl)piperidin-4-ol | 0.178 g | N1=CC=C(C=C1)N1CCC(CC1)O | C10H14N2O
reactant | 4-(4-chlorophenylsulphonyl)phenol | 0.269 g | ClC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)O | C12H9ClO3S
reactant | triphenylphosphine | 0.265 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(pyridyl)piperidine | 0.134 g | N1=C(C=CC=C1)C1CCNCC1 | C10H14N2
